US04081475
Dimethyl (5-tert.-butyl-2,3-dimethyl-4-hydroxybenzyl)malonate
1.08 Grams of sodium methylate (0.02 moles) was added to 26.4 grams of dimethylmalonate (0.20 moles) in 25 ml of dry dimethylformamide in a nitrogen atmosphere and warmed to 40° C to obtain a clear solution. 47 grams of 6-tert.-butyl-2,3-dimethyl-4-(dimethylaminomethyl)phenol (0.20 moles) was added at room temperature, the reaction mixture becoming blue and was then gradually heated to 40° C over a period of about 40 minutes during which the blue color disappeared. The reaction mixture was then heated at 80° C for 13/4 hours. After acidification with 6N aqueous hydrochloric acid, the reaction mixture was poured into 200 ml of an ice-water dispersion with stirring to yield a hard crystalline precipitate. This precipitate was taken up in 700 ml of chloroform, the chloroform solution washed successively with dilute hydrochloric acid, water, saturated sodium bicarbonate and finally with water again. After drying over anhydrous sodium sulfate and filtering free of drying agent, the solvent was removed by distillation at reduced pressures. Crystallization of the residue from 1,2-dichloroethane yielded the product as white crystals melting at 140° to 143° C.

reactant | sodium methylate | 0.02 moles | C[O-].[Na+]
reactant | dimethylmalonate | 0.20 moles, 26.4 grams | CC(C(=O)[O-])(C(=O)[O-])C
reactant | 6-tert.-butyl-2,3-dimethyl-4-(dimethylaminomethyl)phenol | 0.20 moles, 47 grams | C(C)(C)(C)C1=CC(=C(C(=C1O)C)C)CN(C)C | C15H25NO
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | Dimethyl (5-tert.-butyl-2,3-dimethyl-4-hydroxybenzyl)malonate | C(C)(C)(C)C=1C(=C(C(=C(CC(C(=O)OC)C(=O)OC)C1)C)C)O | C18H26O5
